US20010018447A1
c) Preparation of 1,3-dihydro-2,2-dioxo4-chloro-3-propyl-7-nitro-2,1-benzisothiazole
1,3-dihydro-2,2-dioxo-4-chloro-3-propyl-2,1-benzisothiazole (131 mg, 0.54 mmol) was dissolved in chloroform (30 ml) followed by the addition of ammonium nitrate (44 mg, 0.54 mmol) and trifluoroacetic anhydride (397 mg, 214.4 mmol). The mixture is allowed to stir. After 24 hours, the reaction mixture is diluted with chloroform and extracted with water. The organic layer is dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (50% Ethyl acetate/Hexane) gave the desired product (28 mg, 20%). EI-MS m/z 289.1 (M+).

reactant | 1,3-dihydro-2,2-dioxo-4-chloro-3-propyl-2,1-benzisothiazole | 0.54 mmol, 131 mg | O=S1(NC2=C(C1CCC)C(=CC=C2)Cl)=O | C10H12ClNO2S
reactant | ammonium nitrate | 0.54 mmol, 44 mg | [N+](=O)([O-])[O-].[NH4+]
reactant | trifluoroacetic anhydride | 214.4 mmol, 397 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-dihydro-2,2-dioxo4-chloro-3-propyl-7-nitro-2,1-benzisothiazole | 28 mg, 20% | O=S1(NC2=C(C1CCC)C(=CC=C2[N+](=O)[O-])Cl)=O | C10H11ClN2O4S
